US09255110B2
A suspension of 7-methyl-3H-thieno[3,2-d]pyrimidin-4-one (2.1 g) in phosphorus oxychloride (10 mL) was heated at 100° C. for 1 hour. The reaction mixture was then cooled and poured into a mixture of ice-water and ethyl acetate. The organic layer was separated, washed with brine, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The crude residue was purified by flash chromatography (DCM) to afford 2.0 g of 4-chloro-7-methyl-thieno[3,2-d]pyrimidine.

reactant | 7-methyl-3H-thieno[3,2-d]pyrimidin-4-one | 2.1 g | CC1=CSC2=C1N=CNC2=O | C7H6N2OS
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | phosphorus oxychloride | 10 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-7-methyl-thieno[3,2-d]pyrimidine | 2.0 g | ClC=1C2=C(N=CN1)C(=CS2)C | C7H5ClN2S
